US09255096B1
3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-isopropylphenyl)benzamide
To a mixture of 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid (0.10 mmol, 30 mg) and triethylamine (0.20 mmol, 0.028 mL) in 1.0 mL DMF at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.12 mmol, 0.072 mL). After 15 min at rt, 3-isopropylaniline (0.15 mmol, 0.021 mL) was added and the reaction stirred at rt for 4 hours. The reaction was quenched into dilute aqueous Na2CO3 solution, extracted into EtOAc, the EtOAc layer washed with H2O, dilute aqueous Na2CO3 solution, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was triturated with EtOAc/hexane to give the title compound as a light beige solid (22 mg, 52%).

reactant | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid | 0.10 mmol, 30 mg | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)O)C=CC1)C=CC=C3 | C19H16N2O2
reactant | triethylamine | 0.20 mmol, 0.028 mL | C(C)N(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 0.12 mmol, 0.072 mL | CCCP(=O)=O | C3H7O2P
reactant | 3-isopropylaniline | 0.15 mmol, 0.021 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-isopropylphenyl)benzamide | 22 mg, 52% | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1)C=CC=C3 | C28H27N3O
